US06166002
i) 4-(3-{2-[2,6-Difluoro-4-(3-guanidino-2-methyl-3-oxopropenyl)phenylamino]ethoxy}-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoic acid
130 mg of guanidine hydrochloride and 125 mg of potassium t-butoxide are stirred at RT for 30 minutes in 1 ml of anhydrous DMF. A solution of 150 mg of ethyl 3-(4-{2-[17-(3-carboxy-1-methylpropyl)-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-3-yloxy]ethylamino}-3,5 -difluorophenyl)-2-methylacrylate in 1 ml of anhydrous DMF is then added and the mixture is stirred at 110-115° C. for 6 hours. The reaction mixture is then poured onto 100 ml of water, adjusted to pH=6 using aqueous HCl solution and the product is filtered off. It is dried in a fine vacuum and 8.0 mg of an amorphous solid are obtained. Rf (CH2C12 /MeOH/acetic acid/water 32:8:1:1)=0.21 MS (ES): 689 (M+H)+

reactant | guanidine hydrochloride | 130 mg | Cl.NC(=N)N
reactant | potassium t-butoxide | 125 mg | CC(C)([O-])C.[K+]
reactant | ethyl 3-(4-{2-[17-(3-carboxy-1-methylpropyl)-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-3-yloxy]ethylamino}-3,5 -difluorophenyl)-2-methylacrylate | 150 mg | C(=O)(O)CCC(C)C1CCC2C3C(CC4CC(CCC4(C3CC(C12C)O)C)OCCNC1=C(C=C(C=C1F)C=C(C(=O)OCC)C)F)O | C38H55F2NO7
reactant | HCl | Cl | ClH
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | MeOH acetic acid water | CO.C(C)(=O)O.O
solvent | water | 100 ml | O | H2O
product | 4-(3-{2-[2,6-Difluoro-4-(3-guanidino-2-methyl-3-oxopropenyl)phenylamino]ethoxy}-7,12-dihydroxy-10,13-dimethylhexadecahydrocyclopenta[a]phenanthren-17-yl)pentanoic acid | FC1=C(C(=CC(=C1)C=C(C(=O)NC(=N)N)C)F)NCCOC1CCC2(C3CC(C4(C(CCC4C3C(CC2C1)O)C(CCC(=O)O)C)C)O)C | C37H54F2N4O6
